US09227956B2
To a suspension of 4-bromobenzoic acid (3.30 g, 16.4 mmol) in anhydrous DCM (120 mL) was added oxalyl chloride (6.26 g, 49.3 mmol) dropwise at 0° C. followed by 3 drops of DMF. The resulting mixture was stirred at room temperature for 2 h. The mixture was then concentrated in vacuo to give 4-bromobenzoyl chloride as a yellow solid. The solid was dissolved in anhydrous THF (40 mL) and a solution of Preparation 3 tert-butyl (3R)-3-(isoquinolin-1-ylamino)piperidine-1-carboxylate (4.89 g, 14.9 mmol) in anhydrous THF (50 mL) was added. The resulting solution was treated with lithium bis(trimethylsilyl)amide (44.8 mL, 44.8 mmol, 1 M) dropwise at 0° C. The reaction mixture was stirred at room temperature overnight. The mixture was poured into water and extracted with EtOAc (4×100 mL). The combined organic layers were dried over Na2SO4, filtered, and the filtrate was concentrated under reduced pressure. The crude product was purified by silica gel chromatography eluting with a gradient of (0-25%) EtOAc/petroleum ether to afford the title compound (4.80 g, 63%) as a yellow solid.

reactant | 4-bromobenzoic acid | 16.4 mmol, 3.30 g | BrC1=CC=C(C(=O)O)C=C1 | C7H5BrO2
reactant | oxalyl chloride | 49.3 mmol, 6.26 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | DCM | 120 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
product | 4-bromobenzoyl chloride | BrC1=CC=C(C(=O)Cl)C=C1 | C7H4BrClO
